US04010202
In a manner similar to that of Reference Example 3, 10.5 parts of 2-amino-5,6-dimethoxy-3,4-dihydro-1(2H)-naphthalenone hydrochloride is reacted with 10 volume parts of cyclobutanone. The procedure yields 8.2 parts of 2-cyclobutylamino-5,6-dimethoxy-3,4-dihydro-1(2H)-naphthalenone hydrochloride. Melting point: 146°-164° C (decomposition).

reactant | 2-amino-5,6-dimethoxy-3,4-dihydro-1(2H)-naphthalenone hydrochloride | Cl.NC1C(C2=CC=C(C(=C2CC1)OC)OC)=O
reactant | cyclobutanone | C1(CCC1)=O | C4H6O
product | 2-cyclobutylamino-5,6-dimethoxy-3,4-dihydro-1(2H)-naphthalenone hydrochloride | Cl.C1(CCC1)NC1C(C2=CC=C(C(=C2CC1)OC)OC)=O | InChI=1S/C16H21NO3.ClH/c1-19-14-9-7-11-12(16(14)20-2)6-8-13(15(11)18)17-10-4-3-5-10;/h7,9-10,13,17H,3-6,8H2,1-2H3;1H
